US09024041B2
Intermediate A23: 3-tert-Butyl-1-(3-methoxy-4-((triisopropylsilyloxy)methyl)phenyl)-1H-pyrazol-5-amine
To a solution of 3-tert-butyl-1-(3-chloro-4-(hydroxymethyl)phenyl)-1H-pyrazol-5-amine (840 mg, 90% purity, 2.75 mmol) in dry THF (10 mL) under N2 was added imidazole (240 mg, 3.5 mmol) and chlorotriisopropylsilane (720 μL, 650 mg, 3.40 mmol) and the reaction mixture kept at RT for 18 hr. The resulting mixture was diluted with DCM (5.0 mL) and was treated with a second aliquot of chlorotriisopropylsilane (720 μL, 650 mg, 3.40 mmol) and after a further 5 hr with additional imidazole (240 mg, 3.50 mmol). After 20 hr the reaction mixture was treated for a third time with chlorotriisopropylsilane (360 μL, 330 mg, 1.70 mmol) and imidazole (120 mg, 1.8 mmol) and after 3 days was evaporated in vacuo. The residue was taken up into EtOAc (50 mL) and was washed with water (20 mL) and brine (10 mL) and then dried and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, 40 g, EtOAc in isohexane, 0-100%, gradient elution) and then by SCX capture and release to afford a brown oil which comprised of a mixture of starting material and the desired product. This mixture was taken up into THF (1.0 mL) and was treated with chlorotriisopropylsilane (200 μL, 200 mg, 0.30 mmol) and imidazole (75 mg, 1.1 mmol) and was maintained at RT for 24 hr and then evaporated in vacuo. The residue was partitioned between EtOAc (10 mL) and water (10 mL) and the organic phase was separated and extracted brine (10 mL) and then dried and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, 40 g, EtOAc in isohexane, 0-100%, gradient elution) to afford the title compound, Intermediate A23 as a yellow oil (510 mg, 37%); Rt 5.74 min (Method 1 basic); m/z 432 (M+H)+, (ES+).

reactant | 3-tert-butyl-1-(3-chloro-4-(hydroxymethyl)phenyl)-1H-pyrazol-5-amine | 2.75 mmol, 840 mg | C(C)(C)(C)C1=NN(C(=C1)N)C1=CC(=C(C=C1)CO)Cl | C14H18ClN3O
reactant | imidazole | 3.5 mmol, 240 mg | N1C=NC=C1 | C3H4N2
reactant | chlorotriisopropylsilane | 3.40 mmol, 720 μL, 650 mg | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
reactant | chlorotriisopropylsilane | 3.40 mmol, 720 μL, 650 mg | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
reactant | imidazole | 3.50 mmol, 240 mg | N1C=NC=C1 | C3H4N2
reactant | chlorotriisopropylsilane | 1.70 mmol, 360 μL, 330 mg | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
reactant | imidazole | 1.8 mmol, 120 mg | N1C=NC=C1 | C3H4N2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 3-tert-Butyl-1-(3-methoxy-4-((triisopropylsilyloxy)methyl)phenyl)-1H-pyrazol-5-amine | C(C)(C)(C)C1=NN(C(=C1)N)C1=CC(=C(C=C1)CO[Si](C(C)C)(C(C)C)C(C)C)OC | C24H41N3O2Si
